US06169107A
The reaction was carried out in a manner similar to Example 186 b) except for using 0.17 g (0.45 mmol) of ethyl 4-chloro-1-methyl-7-(3-nitrophenoxy)-2-indolecarboxylate, 1.30 g of guanidine hydrochloride, 0.74 g (13.6 mmol) of sodium methoxide and 30 ml of methanol. 4-Chloro-1-methyl-7-(3-nitrophenoxy)-2-indoloylguanidine was obtained in the amount of 0.06 g (34.3%).

reactant | ethyl 4-chloro-1-methyl-7-(3-nitrophenoxy)-2-indolecarboxylate | 0.45 mmol, 0.17 g | ClC1=C2C=C(N(C2=C(C=C1)OC1=CC(=CC=C1)[N+](=O)[O-])C)C(=O)OCC | C18H15ClN2O5
reactant | guanidine hydrochloride | 1.30 g | Cl.NC(=N)N
reactant | sodium methoxide | 13.6 mmol, 0.74 g | C[O-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 4-Chloro-1-methyl-7-(3-nitrophenoxy)-2-indoloylguanidine | ClC1=C2C=C(NC2=C(C=C1)OC1=CC(=CC=C1)[N+](=O)[O-])C(=O)N=C(NC)N | C17H14ClN5O4
